* NDP506BL ELECTRICAL MODEL (TO-220 N-Ch DMOS)
* -------------------------
.SUBCKT  NDP506BL  20  10  30
Rg  10  1  3
M1   2  1  3   3   DMOS    L=1u   W=1u
.MODEL  DMOS  NMOS(VTO={1.6*{-0.0032*TEMP+1.08}}  KP={-0.025*TEMP+15.125}
+  THETA=0.086  VMAX=2.1E5  LEVEL=3)
Cgs   1    3    734p
Rd    20   4    6m TC=0.0056
Dds   3    4    DDS
.MODEL   DDS   D(BV={60*{0.00088*TEMP+0.978}}   M=0.35  CJO=537p   VJ=1.16)
Dbody   3   20   DBODY
.MODEL   DBODY   D(IS=1.4E-13   N=1   RS=70.8m   TT=70n)
Ra    4    2    22m TC=0.0056
Rs    3    5    2m
Ls    5    30   5n
M2    1    8    6   6   INTER
E2    8    6    4   1   2
.MODEL   INTER   NMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax   7   4    2500p
Rcgd     7   4    10meg
Dgd      6   4    DGD
Rdgd     4   6    10meg
.MODEL    DGD   D(M=0.54   CJO=1600p   VJ=0.104)
M3     7   9   1   1   INTER
E3     9   1   4   1   -2
.ENDS NDP506BL
*
.SUBCKT   506THMAL   50  40  100

Rop       50   60   1meg                         ; From input power, use ideal
Cop       60   70   1u   IC=0                    ; opamp to get energy W(t),
E_W       40   70   40   60  1meg                ; assume Rin=infinite & Ro=0

E_Pave    80   40   VALUE = {V(40,70)/(TIME+1n)} ; Get average power by W(t)/t
R80       80   40   1k

E_Tjc    100   40   VALUE = {V(80,40)*2.5*V(90,40)}; Tjc=Pave(t)*RJC*rjc(t)
R100     100   40   1k

R90       90   40   1k
E_rjc     90   40   table {TIME}                 ; Normalized NDx506x Single Pulsed rjc(t)
+ (0.00001, 0.022853)
+ (0.000015, 0.02799)
+ (0.00002, 0.03232)
+ (0.00003, 0.039583)
+ (0.00004, 0.045707)
+ (0.00005, 0.051102)
+ (0.00007, 0.060465)
+ (0.0001, 0.072269)
+ (0.0002, 0.102204)
+ (0.000299, 0.125874)
+ (0.0004, 0.145186)
+ (0.0005, 0.161404)
+ (0.000698, 0.191381)
+ (0.001, 0.228536)
+ (0.0015, 0.279898)
+ (0.002001, 0.321014)
+ (0.002995, 0.383532)
+ (0.004, 0.43045)
+ (0.005, 0.466497)
+ (0.007019, 0.518902)
+ (0.01, 0.567218)
+ (0.01479, 0.614871)
+ (0.020815, 0.654644)
+ (0.030075, 0.693922)
+ (0.040382, 0.723533)
+ (0.049664, 0.742936)
+ (0.069676, 0.774638)
+ (0.100235, 0.808819)
+ (0.149725, 0.844508)
+ (0.199661, 0.869305)
+ (0.297795, 0.898022)
+ (0.398993, 0.91482)
+ (0.499729, 0.925716)
+ (0.700469, 0.940445)
+ (0.998995, 0.955408)
+ (1.5, 0.968511)
+ (1.99706, 0.975731)
+ (3, 0.984415)
+ (4, 0.989822)
+ (5, 0.992366)
+ (7, 0.994063)
+ (10, 1)
.ENDS 506THMAL
*
